US05646173
A solution of 16 g of 6-hydroxy-1-indanone, 22.3 ml of 3-buten-2-ol and 160 mg of p-toluenesulfonic acid in 170 ml of 2,2-dimethoxy-propane was boiled under reflux for 38 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/ethyl acetate 4:1). In addition to 7.5 g of educt, there were obtained 6.21 g (28%) of (RS)-2-(2-buten-1-yl)-6-hydroxy-1-indanone as a yellow oil.

reactant | 6-hydroxy-1-indanone | 16 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
reactant | 3-buten-2-ol | 22.3 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 160 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxy-propane | 170 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2-(2-buten-1-yl)-6-hydroxy-1-indanone | 6.21 g, 28% | C(C=CC)C1C(C2=CC(=CC=C2C1)O)=O | C13H14O2
